Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
small bowel obstruction
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ history of appendectomy and multiple ovarian
surgeries p/w abdominal pain x 1 day found to have SBO. Patient
started having mid abdominal pain around 6pm yesterday, which
gradually worsened to the point where the patient was unable to
move. No nausea but had emesis due to the feeling of abdominal
pressure. No fevers, no dysuria, but did endorse decreased
appetite. Last BM was 2pm and last passed gas yesterday am. Of
note has had intermittently cramping and constipation the last
few months. Has had multiple abdominal surgeries, mostly ovarian
surgeries, last was a salpingoophrectomy ___ years ago. No 
history
of previous bowel obstructions. Had history of alcohol
dependence. Last drink was 6 months ago. Does use xanax
regularly, now once every three days and uses naloxone prn. WBC
11.4, Cr 1.0, labs from ___. CT shows SBO with
transition point in the pelvis. NGT was placed in the ED with
100cc clear liquid output. +urinary frequency but no dysuria. 
ECG
with inverted P waves and ST changes in II

 
Past Medical History:
ASEPTIC MENINGITIS                                              
DEPRESSION                                                      
MELANOMA                                                        
ALCOHOL ABUSE  

 
Social History:
___
Family History:
pancreatic and liver cancer
 
Physical Exam:
General-AAOx3, NAD
HEENT-AT, NC, sclerae anicteric
Heart-RRR, normal S1, S2
Lungs-CTA B/L
Abd-soft, NT, ND
extr.-no edema or cyanosis
 
Pertinent Results:
___ 01:30PM   GLUCOSE-93 UREA N-12 CREAT-0.8 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-27 ANION GAP-13
___ 01:30PM   estGFR-Using this
___ 01:30PM   CK(CPK)-114
___ 01:30PM   CK-MB-3 cTropnT-<0.01
___ 01:30PM   CALCIUM-8.8 PHOSPHATE-3.9 MAGNESIUM-2.1
___ 01:30PM   WBC-6.0# RBC-4.44 HGB-14.0 HCT-42.1 MCV-95 
MCH-31.5 MCHC-33.2 RDW-13.3
___ 01:30PM   PLT COUNT-221
___ 01:30PM   ___ PTT-35.4 ___
 
Brief Hospital Course:
Ms. ___ was transferred from outside hospital to ___ on 
___ for further management of her small bowel obstruction 
diagnosed on CT abd/pelvis. nasogastric tube was placed in the 
emergency department which only drained 100cc of clear liquid. 
The patient was admitted to acute care surgery service for 
further management. She was kept NPO for diet and received 
intravenous fluids. The NG tube was later removed. On HD2 she 
was given regular diet which she tolerated well without nausea 
and vomiting. Her INS and Outs as well as vital signs were 
recorded adnn remained adequate. 
The patient was discharged home with instructions to follow up 
in ___ clinic.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Citalopram 40 mg PO DAILY 
2. ALPRAZolam 0.25 mg PO TID:PRN anxiety 
3. TraZODone 50 mg PO HS 

 
Discharge Medications:
1. TraZODone 50 mg PO HS 
2. Docusate Sodium 100 mg PO BID:PRN constipation 
3. ALPRAZolam 0.25 mg PO TID:PRN anxiety 
4. Citalopram 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for a small bowel obstruction. 
You were given bowel rest and intravenous fluids and a 
nasogastric tube was placed in your stomach to decompress your 
bowels. Your obstruction has subsequently resolved after 
conservative management. You have tolerated a regular diet, are 
passing gas and your pain is controlled with pain medications by 
mouth. You may return home to finish your recovery.
 
Please monitor your bowel function closely. You may or may not 
have had a bowel
movement prior to your discharge which is acceptable, however it 
is important that you have a bowel movement in the next ___ 
days. After anesthesia it is not uncommon for patient’s to have 
some decrease in bowel function but you should not have 
prolonged constipation. Some loose stool and passing of small 
amounts of dark, old appearing blood are expected. However, if 
you notice that you are passing bright red blood with bowel 
movements or having loose stool without improvement please call 
the office or go to the emergency room if the symptoms are 
severe. If you are taking narcotic pain medications there is a 
risk that you will have some constipation. Please take an over 
the counter stool softener such as Colace, and if the symptoms 
do not improve call the office. If you have any of the following 
symptoms please call the office for advice or go to the 
emergency room if severe: increasing abdominal distension, 
increasing abdominal pain, nausea, vomiting, inability to 
tolerate food or liquids, prolonged loose stool, or extended 
constipation.
 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. Good luck!

 
Followup Instructions:
___